US06747027B1
Part B: 5.2 grams (20 mmol) of 4-(4′-bromophenyl)-anisole was dissolved in 100 mL of anhydrous tetrahydrofuran and placed under nitrogen to cool to −78 C. To this flask was added 8.0 mL of 2.5 molar butyl lithium over 10 minutes. In an adjacent flask was added 100 mL of anhydrous tetrahydrofuran which was cooled to −60 C and a stream of sulfur dioxide was added through a dispersion tube while the system is under nitrogen atmosphere. After the addition of approximately 10 mL of liquid sulfur dioxide the dispersion tube was removed and the cold sulfur dioxide solution was transferred by a cannula to the stirred aryl lithium solution over five minutes. After one hour at −70 C the contents were warmed to room temperature and the solution was concentrated to dryness to yield a crude lithium sulfinate. The crude lithium 4-(4′-methoxyphenyl)phenylsulfinic acid was slurried in 100 mL of dry hexanes under nitrogen atmosphere and cooled to 0 C. To this cooled suspension was added 2.45 grams (18.1 mmol) of sulfuryl chloride and the suspension was allowed to warm to room temperature. The contents were concentrated by rotory evaporation to yield 5.1 grams of crude 4-(4′-methoxyphenyl)phenyl-sulfonyl chloride which was purified by recrystallization from chloroform.

reactant | 4-(4′-bromophenyl)-anisole | 20 mmol, 5.2 grams | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OC | C13H11BrO
reactant | butyl lithium | 2.5 molar, 8.0 mL | C(CCC)[Li]
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | lithium 4-(4′-methoxyphenyl)phenylsulfinic acid | COC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)O.[Li]
reactant | sulfuryl chloride | 18.1 mmol, 2.45 grams | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-(4′-methoxyphenyl)phenyl-sulfonyl chloride | 5.1 grams | COC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO3S
